US05811389
A solution of 3.19 g (18.32 mmol) of dimethyl azodicarboxylate in 10 ml of tetrahydrofuran was added within 4 hours under argon and while cooling with ice to a solution of 6.44 g (15.24 mmol) of [3,7-dimethoxy-6-(2-methoxy-ethoxymethoxymethyl)-10-methyl-phenothiazin-4-yl]-methanol, 2.68 g (18.11 mmol) of phthalimide and 4.40 g (16.77 mmol) of triphenylphosphine in 75 ml of tetrahydrofuran. The reaction mixture was stirred at 0° for a further 2 hours, brought slowly to room temperature and then poured into ice-water and ethyl acetate. The mixture was treated with hexane and ethanol, whereupon it was shaken vigorously. The organic phase was separated, washed with saturated sodium hydrogen carbonate solution and saturated sodium chloride solution, dried over magnesium sulphate and evaporated, and the residue was chromatographed on silica gel with ethyl acetate/hexane (1:1). After recrystallization from methanol 6.83 g (81.2%) of 2-[3,7-dimethoxy-6-(2-methoxy-ethoxymethoxymethyl)-10-methyl-phenothiazin-4-ylmethyl]-2,3:-dihydro-1H-isoindole-1,3-dione were obtained as a white solid of m.p. 135°-137°.

reactant | dimethyl azodicarboxylate | 18.32 mmol, 3.19 g | N(=NC(=O)OC)C(=O)OC | C4H6N2O4
reactant | [3,7-dimethoxy-6-(2-methoxy-ethoxymethoxymethyl)-10-methyl-phenothiazin-4-yl]-methanol | 15.24 mmol, 6.44 g | COC=1C=CC=2N(C3=CC=C(C(=C3SC2C1CO)COCOCCOC)OC)C | C21H27NO6S
reactant | phthalimide | 18.11 mmol, 2.68 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | triphenylphosphine | 16.77 mmol, 4.40 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
solvent | ethanol | C(C)O | C2H6O
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | dihydro-1H-isoindole-1,3-dione | C1(NC(C2CC=CC=C12)=O)=O | C8H7NO2
